US04299829
To a solution of N,N-dimethylformamide (1.23 g) and ethyl acetate (9 ml) was added dropwise phosphorus oxychloride (2.58 g) at -10° to -5° C. with stirring, and the mixture was stirred for 30 minute at the same temperature. To the mixture were added 2-hexyloxyimino-2-(2-formylaminothiazol-4-yl)acetic acid (syn isomer), which can be represented as 2-hexyloxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetic acid (syn isomer), (4.2 g) and ethyl acetate (33 ml), and the mixture was stirred for 30 minutes at -10° to -5° C. and then cooled to -20° C. Thus obtained solution was added to a solution, which was prepared by stirring a mixture of 2-methyl-7-amino-3-cephem-4-carboxylic acid (3 g) and trimethylsilylacetamide (11 g) in ethyl acetate (33 ml), with stirring under cooling to -10° C. The mixture was stirred for 30 minutes at -10° C. and thereto was added water 50 ml. The mixture was extracted twice with ethyl acetate. The combined extracts were washed with an aqueous solution of sodium chloride and the precipitates were collected by filtration and then dried to give 2-methyl-7-[2-hexyloxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-hexyloxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (4.3 g). The filtrate was evaporated to give further the same object compound (1.15 g).

reactant | phosphorus oxychloride | 2.58 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-hexyloxyimino-2-(2-formylaminothiazol-4-yl)acetic acid | C(CCCCC)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C12H17N3O4S
reactant | 2-hexyloxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetic acid | 4.2 g | C(CCCCC)ON=C(C(=O)O)C=1NC(SC1)=NC=O | C12H17N3O4S
reactant | 2-methyl-7-amino-3-cephem-4-carboxylic acid | 3 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2N)=O | C8H10N2O3S
reactant | trimethylsilylacetamide | 11 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 33 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 33 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 9 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 1.23 g | CN(C=O)C | C3H7NO
product | 2-methyl-7-[2-hexyloxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)NC=O)=NOCCCCCC)=O)=O | C20H25N5O6S2
